US03991086
To a boiling mixture of 6.2 g of sodium and 80 ml of xylene, with stirring are added gradually 80.2 g of geranylmalonic ester; the mixture is heated for one hour until all of the sodium is dissolved and then 29-32 g of dimethylaminoethyl chloride (in a solvent or without it) are added at a rate that ensures slight boiling of the reaction mixture. The reaction mixture is then heated with stirring so that the solvent boils until the reaction of a sample to phenolphthalein is neutral. After the mixture is cooled, the formed salt precipitate is dissolved by adding sufficient water, the reaction products are extracted with an organic solvent immiscible with water, for example with xylene. The solvent is then distilled and the residue (dimethylaminoethylgeranylmalonic ester) is fractionated in vacuum. As a result, 42 g of the dimethylaminoethylgeranylmalonic ester are produced. The boiling point of the ester is 178°-179° C/4 mm, n20 1.4720. To the boiling concentrated alcoholic solution of potassium hydroxide taken in excess, are added with stirring 42 g of dimethylaminoethylgeranylmalonic ester, the mixture is heated for one hour, then the alcohol is removed, the residue is dissolved in water and neutralized for example with hydrochloric acid. The isolated dimethylaminoethylgeranylmalonic acid is filtered with suction, washed with water and dried in a vacuum desiccator. As a result, 32 g of dimethylaminoethylgeranylmalonic acid are produced. The melting point of the acid is 145.5° - 146.0° C (with decomposition). The 32 g of dimethylaminoethylgeranylmalonic acid are decarboxylated in a hydrocarbon solvent having a boiling point of 150° C and above, for example in n-decane, after which the formed monocarboxylic acid is purified by fractionation in vacuum. 29 g of dimethylaminoethylgeranylacetic acid are obtained. The melting point of the acid is 183° - 185° C/2 mm, n20 1.4945.

reactant | dimethylaminoethylgeranylmalonic acid | 32 g | CN(C)CCC/C(=C/CC/C(=C/CC(C(=O)O)C(=O)O)/C)/C | C17H29NO4
solvent | n-decane | CCCCCCCCCC | C10H22
product | dimethylaminoethylgeranylacetic acid | 29 g | CN(C)CCC/C(=C/CC/C(=C/CCC(=O)O)/C)/C | C16H29NO2
